US04714766
109 g (1 mole) of 2-aminophenol and 63 g (1.05 mole) of urea are suspended in 350 ml of o-dichlorophenol and the suspension is heated to 150° to 160° C. under nitrogen for 3 hours, ammonia escaping. About 100 ml of the solvent are distilled off by a slight lowering of the pressure and subsequently 300 ml of fresh o-dichlobenzene are added. At an interior temperature of 110° C. 78 g (1.1 mole) of chlorine are then passed in within 1 to 2 hours, hydrogen chloride escaping. The raw mixture is reacted with phosphorus pentachloride and worked up analogously to Example 8. 115 g (61% of theory) of 2,6-dichlorobenzoxazole are obtained. GC purity: 96.8%.

reactant | 2-aminophenol | 1 mole, 109 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | urea | 1.05 mole, 63 g | NC(=O)N | CH4N2O
reactant | ammonia | N | H3N
reactant | chlorine | 1.1 mole, 78 g | ClCl | Cl2
reactant | hydrogen chloride | Cl | ClH
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | o-dichlorophenol | 350 ml | ClC1(C(C=CC=C1)Cl)O | C6H6Cl2O
product | 2,6-dichlorobenzoxazole | 115 g, 61% | ClC=1OC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NO
